US07030118B2
A) (±)-(3-{(4-Methylbenzoyl)-[1-(4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin -2-yl)-propyl]-amino}-propyl)-carbamic acid tert-butyl ester
A mixture of {3-[[1-(3-benzyl-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-(4-methylbenzoyl)-amino]-propyl}-carbamic acid tert-butyl ester (115 mg, 0.21 mmol, prepared using an identical synthetic sequence to that outlined for Example 12 A–F, except substituting p-toluoyl chloride for 4-chlorobenzoyl chloride in F) and Pd(OH)2 (20 wt. % Pd on carbon, 66 mg) in ethanol (6 mL) was stirred at 50° C., under 60 psi of hydrogen, for 22 h. The catalyst was filtered off and the residue was purified by preparative HPLC (YMC S10 ODS, 30×500 mm, 30 minute gradient from 62–90% aqueous methanol with 0.1% TFA). The appropriate fractions were combined, neutralized with saturated aqueous sodium bicarbonate, and then concentrated in vacuo to remove the methanol. The mixture was extracted with ethyl acetate (3×10 mL). The combined organic layers were washed once each with water and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to yield the title compound (63 mg, 65%): 1H NMR (CDCl3) δ 10.52 (s, 1H), 7.37–7.35 (m, 3H), 7.27–7.23 (m, 2H), 7.07 (m, 1H), 6.54 (m, 1H), 4.60 (m, 1H), 4.21 (m, 1H), 3.40 (m, 2H), 2.89 (m, 2H), 2.40 (s, 3H), 2.29 (m, 2H), 1.64 (m, 2H), 1.37 (s, 9H), 1.08 (t, 3H, J=7.15 Hz); MS (ESI+) 468.21 (M++H).

reactant | {3-[[1-(3-benzyl-4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)-propyl]-(4-methylbenzoyl)-amino]-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCN(C(C1=CC=C(C=C1)C)=O)C(CC)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2)=O | C32H39N5O4
reactant | 4-chlorobenzoyl chloride | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | Pd(OH)2 | 66 mg | [OH-].[OH-].[Pd+2]
product | (±)-(3-{(4-Methylbenzoyl)-[1-(4-oxo-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin -2-yl)-propyl]-amino}-propyl)-carbamic acid tert-butyl ester | 63 mg, 65% | C(C)(C)(C)OC(NCCCN(C(CC)C1=NN2C(C(N1)=O)=CC=C2)C(C2=CC=C(C=C2)C)=O)=O | C25H33N5O4
